US06413995B1
1.03 g of 4-acetoxycinnamic acid and 0.61 g of 3-(methylaminomethyl)pyridine were dissolved in 5 ml dimethylformamide, and then stirred with 0.90 ml diethylphosphoryl cyanide and subsequently with 0.75 ml triethylamine on ice for 2 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, washed with brine, and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a residue, which was then purified via column chromatography on silica gel (dichloromethane:methanol=30:1) to provide 4[(E)-2-[N-methyl-N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl acetate (1.50 g).

reactant | 4-acetoxycinnamic acid | 1.03 g | C(C)(=O)OC1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
reactant | 3-(methylaminomethyl)pyridine | 0.61 g | CNCC=1C=NC=CC1 | C7H10N2
reactant | diethylphosphoryl cyanide | 0.90 ml | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 0.75 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4[(E)-2-[N-methyl-N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl acetate | 1.50 g | C(C)(=O)OC1=CC=C(C=C1)\C=C\C(N(CC=1C=NC=CC1)C)=O | C18H18N2O3
